US07550478B2
Step 3: 3-chloro-7-(difluoroacetyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one
To a cooled (0° C.) solution of 3-chloro-7-{2,2-difluoro-1-[(2-methoxyethoxy)methoxy]vinyl}-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (50 mg, 0.12 mmol) in a mixture of methanol (0.6 mL) and dichloromethane (0.6 mL) was added chlorotrimethylsilane (0.08 mL, 0.61 mmol). The mixture was allowed to warm to ambient temperature and stirred overnight. The mixture was then poured into an aqueous sodium bicarbonate solution and extracted with ethyl acetate three times. The combined organics were dried over magnesium sulfate, filtered, concentrated in vacuo, and purified via flash chromatography (silica, 0-60% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 8.84 (d 1H), 8.52 (d, 1H), 8.41 (s, 1H), 7.93 (dd, 1H), 7.76 (d, 1H), 7.42 (d, 1H), 7.33 (d, 1H), 5.79 (t, 1H).

reactant | 3-chloro-7-{2,2-difluoro-1-[(2-methoxyethoxy)methoxy]vinyl}-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.12 mmol, 50 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(=C(F)F)OCOCCOC | C20H16ClF2NO4
reactant | chlorotrimethylsilane | 0.61 mmol, 0.08 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 0.6 mL | CO | CH4O
solvent | dichloromethane | 0.6 mL | ClCCl | CH2Cl2
product | 3-chloro-7-(difluoroacetyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(C(F)F)=O | C16H8ClF2NO2
